US08124607B2
{3-[4-(4-Azido-but-1-enyl)-naphthalen-1-yloxy]-propyl}-carbamic acid tert-butyl ester 3.5 g was hydrogenated in ethanol with 5% Pd/C (50% wet) for 2 h. Catalyst was removed, and the filtrate was concentrated to give 2.94 g of {3-[4-(4-Amino-butyl)-naphthalen-1-yloxy]-propyl}-carbamic acid tert-butyl ester. One gram (2.66 mmol) of free amine was stirred with 1-(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-2-methyl-isothiourea (1.55 g, 3.99 mmol) in dry ethanol (25 mL). Diisopropyl-ethylamine (1.39 mL, 7.98 mmol) of was added and the reaction mixture was warmed to 45° C. overnight. Ethanol was added and the reaction filtered. After concentration of the filtrate, the residue was purified by flash chromatography (0-10% MeOH/CH2Cl2) to give 0.92 g of [3-(4-{4-[N′-(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-guanidino]-butyl}-naphthalen-1-yloxy)-propyl]-carbamic acid tert-butyl ester. [3-(4-{4-[N′-(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-guanidino]-butyl}1-naphthalen-1-yloxy)-propyl]-carbamic acid tert-butyl ester (2.7 g was stirred with 4M HCl in p-dioxane for 1 hour at room temperature. Solvents were removed in vacuo. A small amount of the product was purified by flash chromatography to give 7 GS-426675 N-{4-[4-(3-Amino-propoxy)-naphthalen-1-yl]-butyl}-N′-(3,5-diamino-6-chloro-pyrazine-2-carbonyl)-guanidine as an HCl salt.

reactant | {3-[4-(4-Azido-but-1-enyl)-naphthalen-1-yloxy]-propyl}-carbamic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(NCCCOC1=CC=C(C2=CC=CC=C12)C=CCCN=[N+]=[N-])=O | C22H28N4O3
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | {3-[4-(4-Amino-butyl)-naphthalen-1-yloxy]-propyl}-carbamic acid tert-butyl ester | 2.94 g | C(C)(C)(C)OC(NCCCOC1=CC=C(C2=CC=CC=C12)CCCCN)=O | C22H32N2O3
